US04156079
B. 4-[3-[5-Methoxy-2-[[(2-phenylethyl)imino]methyl]phenoxy]propyl]morpholine
4-Methoxy-2-[3-(4-morpholinyl)propoxy]benzaldehyde (29.7 g) and 13.0 g of phenethylamine are reacted in 110 ml of toluene following the procedure described in Example 1B, yielding 33.1 g of the title compound, boiling point 240°-245° C. at 0.1-0.2 mm of Hg.

reactant | 4-Methoxy-2-[3-(4-morpholinyl)propoxy]benzaldehyde | 29.7 g | COC1=CC(=C(C=O)C=C1)OCCCN1CCOCC1 | C15H21NO4
reactant | phenethylamine | 13.0 g | C(CC1=CC=CC=C1)N | C8H11N
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[3-[5-Methoxy-2-[[(2-phenylethyl)imino]methyl]phenoxy]propyl]morpholine | 33.1 g | COC=1C=CC(=C(OCCCN2CCOCC2)C1)C=NCCC1=CC=CC=C1 | C23H30N2O3
